US04394515
10,11-Dihydrodibenzo[b,f]thiepin-3-carboxylic Acid
5.6 G. methyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate is refluxed in a mixture of 50 cc. 20% aqueous sodium hydroxide and 50 cc. ethanol until a clear solution results (15 to 20 minutes). Most of the ethanol is evaporated away and aqueous residue is diluted with water and acidified with hydrochloric acid. The white solid is collected, recrystallized from acetic acid to yield 4.125 g. (77.7%) of the desired white crystalline material, m.p. 196°-198° C.

reactant | methyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate | COC(=O)C=1C=CC2=C(SC3=C(CC2)C=CC=C3)C1 | C16H14O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 10,11-Dihydrodibenzo[b,f]thiepin-3-carboxylic Acid | C1=CC(=CC=2SC3=C(CCC21)C=CC=C3)C(=O)O | C15H12O2S
